US05180741
2-indanol
3.0 g of 4-bromo-2-indanol (RS), 60 ml of tetrahydrofuran, 1.6 g of anhydrous sodium carbonate and 0.28 g of palladium at 10% on active charcoal are agitated for 5 minutes. A solution of 1.36 g of sodium hypophosphite in 8 ml of water is introduced over 10 minutes and the whole is taken to 50° C. for 2 hours. 1.60 g of sodium carbonate is added, then at 50° C. 1.36 g of sodium hypophosphite in 8 ml of water is added drop by drop. The mixture is heated for 3 hours, and after cooling it is filtered. The filtrate is rinsed with isopropyl ether, with methanol, and concentrated to dryness under reduced pressure. The residue is taken up in 150 ml of isopropyl ether and 150 ml of water. After decanting, extraction is carried out with isopropyl ether; the extracts are dried and brought to dryness under reduced pressure. The residue is chromatographed on silica in a hexane-ethyl acetate mixture (7-3) and 1.6 g is obtained, M.p.=69° C.

reactant | 4-bromo-2-indanol | 3.0 g | BrC1=C2CC(CC2=CC=C1)O | C9H9BrO
reactant | sodium carbonate | 1.6 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | charcoal | C | CH4
reactant | sodium hypophosphite | 1.36 g | [PH2](=O)[O-].[Na+]
reactant | sodium carbonate | 1.60 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium hypophosphite | 1.36 g | [PH2](=O)[O-].[Na+]
solvent | water | 8 ml | O | H2O
solvent | water | 8 ml | O | H2O
catalyst | palladium | 0.28 g | [Pd] | Pd
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | 2-indanol | C1C(CC2=CC=CC=C12)O | C9H10O
